US09416135B2
To a solution of (R)-(1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazin-8-yl)methyl acetate (160 mg, 0.456 mmol) in iPrOH (4 mL) and DCM (2 mL) was added 1-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)ethanone (306 mg, 1.37 mmol) and DIEA (353 mg, 2.74 mmol). The mixture was stirred at 60° C. overnight. Water (5 mL) was added to the mixture and the aqueous layer was extracted with EtOAc (2×10 mL). The combined organic layers were washed with water (2×10 mL) and brine, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by preparative TLC to afford (R)-(2-(5-acetyl-4-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazin-8-yl)methyl acetate (150 mg, 44.4% yield) as a yellow oil.

reactant | (R)-(1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazin-8-yl)methyl acetate | 0.456 mmol, 160 mg | C(C)(=O)OCC=1C(=CC2=C(N=C3N2CCN[C@@H]3C(C)C)C1)S(=O)(=O)C | C17H23N3O4S
reactant | 1-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)ethanone | 1.37 mmol, 306 mg | ClC1=NC=C(C(=N1)C(F)(F)F)C(C)=O | C7H4ClF3N2O
reactant | DIEA | 2.74 mmol, 353 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | 5 mL | O | H2O
solvent | iPrOH | 4 mL | CC(C)O | C3H8O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-(2-(5-acetyl-4-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazin-8-yl)methyl acetate | 150 mg, 44.4% yield | C(C)(=O)OCC=1C(=CC2=C(N=C3N2CCN([C@@H]3C(C)C)C3=NC=C(C(=N3)C(F)(F)F)C(C)=O)C1)S(=O)(=O)C | C24H26F3N5O5S
